US08084621B2
A mixture of 2-(3-chloro-2-hydroxypropyl)isoindoline-1,3-dione 7.2 g (0.03 mol) (Weizmann, M. et al. Bull. soc. chim. 1930, 47:356-61) and N-methylcyclohexanamine 6.8 g (0.06 mol) in 25 ml ethanol was refluxed for 6 hours, then evaporated in vacuo. The oil residue was added into 60 ml 20% aq. HCl and refluxed for another 3 hours. After cooled to room temperature, the precipitate was filtered off. The filtrate was concentrated to about 15 ml in vacuo, then basified to pH 13 to 14 with solid NaOH and extracted with CH2Cl2. The organic layer separated was dried over anhydrous Na2SO4 and concentrated in vacuo to give 1.75 g (31%) 1-amino-3-(cyclohexyl(methyl)amino)propan-2-ol as a colorless liquid.

reactant | 2-(3-chloro-2-hydroxypropyl)isoindoline-1,3-dione | 0.03 mol, 7.2 g | ClCC(CN1C(C2=CC=CC=C2C1=O)=O)O | C11H10ClNO3
reactant | N-methylcyclohexanamine | 0.06 mol, 6.8 g | CNC1CCCCC1 | C7H15N
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 1-amino-3-(cyclohexyl(methyl)amino)propan-2-ol | 1.75 g, 31% | NCC(CN(C)C1CCCCC1)O | C10H22N2O
